US06927214B1
To a solution of 2,6,7-trichloro-3-(3-chloropropyl)quinoxaline (0.15 g, 0.48 mmol) in dry DMF (50 ml) were added sodium hydrosulfide (0.11 g, 1.44 mmol) and potassium carbonate (0.20 g, 1.45 mmol). The reaction mixture was stirred for 4 days at room temperature. The solvent was evaporated in vacuo, followed by the addition of water. The resulting mixture was extracted with dichloromethane (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to yield 6,7-dichloro-3,4-dihydro-2H-1-thia-9,10-diaza-anthracene (>100%) as a solid.

reactant | 2,6,7-trichloro-3-(3-chloropropyl)quinoxaline | 0.48 mmol, 0.15 g | ClC1=NC2=CC(=C(C=C2N=C1CCCCl)Cl)Cl | C11H8Cl4N2
reactant | sodium hydrosulfide | 1.44 mmol, 0.11 g | [SH-].[Na+]
reactant | potassium carbonate | 1.45 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6,7-dichloro-3,4-dihydro-2H-1-thia-9,10-diaza-anthracene | >100% | ClC=1C=C2N=C3CCCSC3=NC2=CC1Cl | C11H8Cl2N2S
